US07910588B2
Add lithium aluminum hydride (0.225 g, 5.92 mmol) to tetrahydrofuran (15 mL) at 0° C. then slowly add 5-methyl-1-pyridin-2-yl-1H-pyrazole-4-carboxylic acid ethyl ester (0.685 g, 2.96 mmol) in tetrahydrofuran (5 mL) dropwise. Warm the mixture to room temperature and stir for two hr. then cool the solution to 0° C. Add saturated aqueous sodium sulfate (0.5 mL), warm to room temperature then stir for 2 hr. Filter off the solid materials then dry the solution (sodium sulfate), filter and concentrate to give (5-methyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-methanol as a white solid (0.501 g, 89%).

reactant | lithium aluminum hydride | 5.92 mmol, 0.225 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-methyl-1-pyridin-2-yl-1H-pyrazole-4-carboxylic acid ethyl ester | 2.96 mmol, 0.685 g | C(C)OC(=O)C=1C=NN(C1C)C1=NC=CC=C1 | C12H13N3O2
reactant | sodium sulfate | 0.5 mL | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (5-methyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-methanol | 0.501 g, 89% | CC1=C(C=NN1C1=NC=CC=C1)CO | C10H11N3O
